US07279469B2
[3-(2-Chloro-ethoxy)-4,5-dimethoxy-phenyl]-carbamic acid tert-butyl ester 3-(2-Chloro-ethoxy)-4,5-dimethoxy-benzoic acid (500 mg, 1.9 mmol), DPPA, (550 mg, 2 mmol), and TEA, (2 mmol), were combined in 5 mL t-butanol and refluxed for 5 h. The t-butanol was removed under vacuum and the residue purified by silica gel chromatography (5% methanol/DCM, affording 90 mg [3-(2-Chloro-ethoxy)-4,5-dimethoxy-phenyl]-carbamic acid tert-butyl ester. NMR CDCl3: 6.7(d, 2H), 6.4(bs, 1H), 4.3(t, 3H), 3.85(s, 3H), 3.80(s, 3H), 3.82(m, 2H), 1.5(s, 9H).

reactant | [3-(2-Chloro-ethoxy)-4,5-dimethoxy-phenyl]-carbamic acid tert-butyl ester 3-(2-Chloro-ethoxy)-4,5-dimethoxy-benzoic acid | 1.9 mmol, 500 mg | ClCCOC=1C=C(C(=O)O)C=C(C1OC)OC.C(C)(C)(C)OC(NC1=CC(=C(C(=C1)OC)OC)OCCCl)=O
reactant | DPPA | 2 mmol, 550 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | t-butanol | 5 mL | C(C)(C)(C)O | C4H10O
product | [3-(2-Chloro-ethoxy)-4,5-dimethoxy-phenyl]-carbamic acid tert-butyl ester | 90 mg | C(C)(C)(C)OC(NC1=CC(=C(C(=C1)OC)OC)OCCCl)=O | C15H22ClNO5
